US06451813B1
A solution of 3-chloroperbenzoic acid (85%; 1.63 g) in dichloromethane (60 ml) can be added dropwise during 20 minutes to a stirred solution of 4-methyl-6-methylthiothieno[3,2-b]pyrid-7(4H)-one (2.0 g) in dichloromethane (60 ml) at 0° C.-5° C. After 4 hours, more 3-chloroperbenzoic acid (0.15 g) in dichloromethane (10 ml) can be added and the mixture stirred overnight at ambient temperature. More 3-chloroperbenzoic acid (0.15 g) in dichloromethane (10 ml) can be added and the mixture can again be stirred overnight at ambient temperature. The resulting solution can be extracted with saturated aqueous sodium bicarbonate solution (5×150 ml) and saturated aqueous sodium chloride solution (1×150 ml) and the organic phase can be discarded. The aqueous extracts are combined and extracted with dichloromethane (5×100 ml). The organic extracts are combined, dried over anhydrous magnesium sulphate and evaporated to give a solid product. This product can be crystallised from industrial methylated spirit to give the compound 4-methyl-6-methylsulphinylthieno [3,2-b]pyrid-7(4H)-one, m.p. 174° C.-176° C.

reactant | 3-chloroperbenzoic acid | 1.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-methyl-6-methylthiothieno[3,2-b]pyrid-7(4H)-one | 2.0 g | CN1C2=C(C(C(=C1)SC)=O)SC=C2 | C9H9NOS2
reactant | 3-chloroperbenzoic acid | 0.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 0.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-methyl-6-methylsulphinylthieno [3,2-b]pyrid-7(4H)-one | CN1C2=C(C(C(=C1)S(=O)C)=O)SC=C2 | C9H9NO2S2
